US07285564B2
Step B—Preparation of N-(1-Benzylpiperdin-4-yl)-N-isopropyl 4-(2-Hydroxyethoxy)butyramide
A mixture of ethylene glycol (15 mL, 268 mmol) and N-(1-benzylpiperdin-4-yl)-N-isopropyl 4-chlorobutyramide (5.0 g, 14.9 mmol) was heated at 140° C. for 2 h in the presence of a catalytic amount p-toluenesulfonic acid. The reaction mixture was then dissolved in dichloromethane and the solution washed with 1 N sodium hydroxide, aqueous sodium bicarbonate solution and brine; and dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography (dichloromethane/methanol/ammonium hydroxide: 90/9/1) to give 2.72 g of the title intermediate as viscous oil (51% yield).

reactant | ethylene glycol | 268 mmol, 15 mL | C(CO)O | C2H6O2
reactant | N-(1-benzylpiperdin-4-yl)-N-isopropyl 4-chlorobutyramide | 14.9 mmol, 5.0 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C(CCCCl)=O)C(C)C | C19H29ClN2O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(1-Benzylpiperdin-4-yl)-N-isopropyl 4-(2-Hydroxyethoxy)butyramide | 2.72 g, 51% yield | C(C1=CC=CC=C1)N1CCC(CC1)N(C(CCCOCCO)=O)C(C)C | C21H34N2O3
